US06670494B1
Chromium Glutamate Chloride
15.85 grams (0.1 Mole) of chromium chloride, 29.4 grams (0.2 Mole) of glutamic acid and 100 ml ethanol were placed into a beaker provided with a reflux condenser. The mixture was stirred and boiled at atmospheric pressure for 3.5 hours. The mixture was cooled and thereafter filtered yielding 43.8 grams of chromium glutamate chloride complex in the form of a fine blue powder.

reactant | chromium chloride | 0.1 Mole, 15.85 grams | [Cl-].[Cr+3].[Cl-].[Cl-]
reactant | glutamic acid | 0.2 Mole, 29.4 grams | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Chromium Glutamate Chloride | N[C@@H](CCC(=O)Cl)C(=O)Cl.[Cr] | InChI=1S/C5H7Cl2NO2.Cr/c6-4(9)2-1-3(8)5(7)10;/h3H,1-2,8H2;/t3-;/m0./s1
